US05204482
In an analogous manner to that described in Example 1(C), 28.2 g (96.3 mmol) of O-methyl 3-[(3-chlorobenzyl)-oxy]thiobenzoate were reacted with ethyl isocyanoacetate and subsequently chromatographed on silica gel. Elution with 9:1, 8:2 and 1:1 mixtures of methylene chloride and ethyl acetate as well as ethyl acetate along yielded 28 g (77.8%) of ethyl 5-[3-[(3-chlorobenzyl)oxy]phenyl]-4-thiazolecarboxylate as an orange oil.

reactant | O-methyl 3-[(3-chlorobenzyl)-oxy]thiobenzoate | 96.3 mmol, 28.2 g | ClC=1C=C(COC=2C=C(C(=S)OC)C=CC2)C=CC1 | C15H13ClO2S
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
product | ethyl 5-[3-[(3-chlorobenzyl)oxy]phenyl]-4-thiazolecarboxylate | 28 g, 77.8% | ClC=1C=C(COC=2C=C(C=CC2)C2=C(N=CS2)C(=O)OCC)C=CC1 | C19H16ClNO3S
